US04745112
3,4-Dihydro-4-methyl-6-cyano-2H-1,4-benzodiazepine--2,5(1H)-dione
2.3 g of 3,4-dihydro-4-methyl-6-bromo-2H-1,4-benzodiazepine-2,5(1H)-dione (U.S. Pat. No. 4,352,817 ex.9) and 1.26 g of cupro cyanide was dissolved in 5 ml dimethyl formamide. This mixture was heated to 110° C. for 30 minutes. This mixture was then cooled to 50° C. and 2.4 g sodium in 6 ml water was added. The resulting mixture was then stirred for 10 minutes, whereafter 30 ml water was added. This mixture was extracted two times with 25 ml ethyl acetate. The organic phase was dryed with calcium chloride. After filtration the organic solution was evaporated in vacuo to give 0.78 g of the title compound. M.p. 261°-69° C.

reactant | 3,4-dihydro-4-methyl-6-bromo-2H-1,4-benzodiazepine-2,5(1H)-dione | 2.3 g | CN1CC(NC2=C(C1=O)C(=CC=C2)Br)=O | C10H9BrN2O2
reactant | cyanide | 1.26 g | [C-]#N
reactant | sodium | 2.4 g | [Na] | Na
solvent | dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 6 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 3,4-Dihydro-4-methyl-6-cyano-2H-1,4-benzodiazepine--2,5(1H)-dione | 0.78 g | CN1CC(NC2=C(C1=O)C(=CC=C2)C#N)=O | C11H9N3O2
